US06525042B1
(2RS)-2-(N-tert-Butoxycarbonylaminomethyl)-6-hydroxymethyl-1,2,3,4-tetrahydronaphthalene
In dichloromethane (10 ml), (2RS)-2-(N-tert-butoxycarbonylaminomethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene (0.47 g) was dissolved, followed by the dropwise addition of diisobutylaluminum hydride (a 0.95M hexane solution, 3.6 ml) at an external temperature of −78° C. The resulting mixture was stirred for 90 minutes without changing the temperature. Methanol was added to the reaction mixture, followed by heating to room temperature. The insoluble matter was filtered off through Celite. The filtrate was concentrated under reduced pressure. The concentrate was diluted with dichloromethane, washed with water and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (hexane:ethyl acetate=3:1), whereby colorless crystals (0.31 g, 72%) were obtained. A portion of the crystals was recrystallized from a mixed solvent of hexane and ethyl acetate, whereby colorless crystals were obtained.

reactant | (2RS)-2-(N-tert-butoxycarbonylaminomethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | 0.47 g | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2CC1)C(=O)OC | C18H25NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 0.95M | CCCCCC | C6H14
reactant | Methanol | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2RS)-2-(N-tert-Butoxycarbonylaminomethyl)-6-hydroxymethyl-1,2,3,4-tetrahydronaphthalene | 0.31 g, 72% | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2CC1)CO | C17H25NO3
